US07423142B2
Diethyl-2-azabutane-1,4-dicarboxylate AA
A 4.7 M aqueous solution of sodium hydroxide (50 mL) was added into a stirred, ice-cooled solution of ethyl glycinate hydrochloride (32.19 g, 0.23 mole) in water (50 mL). Then, ethyl acrylate (23.1 g, 0.23 mole) was added and the mixture was stirred at room temperature until completion of the reaction was ascertained by TLC. After 19 h the solution was partitioned with dichloromethane (3×100 mL). The organic layer was dried with anhydrous sodium sulfate, filtered and evaporated. The residue was distilled to afford AA (28.8 g, 61%).

reactant | sodium hydroxide | 50 mL | [OH-].[Na+]
reactant | ethyl glycinate hydrochloride | 0.23 mole, 32.19 g | Cl.NCC(=O)OCC
reactant | ethyl acrylate | 0.23 mole, 23.1 g | C(C=C)(=O)OCC | C5H8O2
solvent | water | 50 mL | O | H2O
product | Diethyl-2-azabutane-1,4-dicarboxylate | C(C)OC(=O)CNCCC(=O)OCC | C9H17NO4
